US07625888B2
Step B: 8-Chloro-3-(trifluoromethyl) [1,2,4]triazolo[4,3-a]pyrazine
A suspension of 40 mg (0.196 mmol) of 3-(trifluoromethyl)[1,2,4]triazolo[4,3-a]pyrazine 7-oxide in 0.9 mL of phosphorus oxychloride was stirred at reflux for 2.5 h. The cooled solution was concentrated to dryness. Purification of the residue by preparative HPLC (C18 reverse phase column, 10-70% acetonitrile in water containing 0.05% trifluoroacetic acid) and then by flash chromatography on silica gel (10-30% ethyl acetate in hexanes) yielded the title compound as a white solid. LC-MS 223 (M+1).

reactant | 3-(trifluoromethyl)[1,2,4]triazolo[4,3-a]pyrazine 7-oxide | 0.196 mmol, 40 mg | FC(C1=NN=C2N1C=C[N+](=C2)[O-])(F)F | C6H3F3N4O
reactant | phosphorus oxychloride | 0.9 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-Chloro-3-(trifluoromethyl) [1,2,4]triazolo[4,3-a]pyrazine | ClC=1C=2N(C=CN1)C(=NN2)C(F)(F)F | C6H2ClF3N4
